US07589123B2
To a solution of 5-(4-(2-boc-aminoethoxy)-3-methoxyphenyl)-1-phenylpentane-1,3-dione (211 mg, 0.48 mmol) dissolved in dioxane (5 ml) was added drop wise dry HCl in dioxane (4 M, 0.36 ml, 1.43 mmol) and stirred at RT for 1 h. After this time diethyl ether (20 ml) was added and an off-white emulsion was visible. The solvents were removed by evaporation in vacuo to give a brown gum residue. Residual dioxane was removed by azeotroping with methanol and then drying the product on high pressure line to give 5-(4-(2-aminoethoxy)-3-methoxyphenyl)-1-phenylpentane-1,3-dione hydrochloride (163 mg, 99%) as a brown powdery solid: mp 80° C.; LCMS 342 [M+H]+, 364 [M+Na]+, 1H NMR (400 MHz, MeOD) δ 2.79-2.82 (2H, m, CH2), 2.99-3.02 (2H, m, CH2), 3.33-3.34 (2H, m, NHCH2+solvent signal), 3.90 (3H, s, OCH3), 4.20 (2H, t, J=5.0 Hz, NHCH2CH2), 6.37 (1H, s, enol CH), 6.84-6.98 (3H, m, 3×ArH), 7.48-7.60 (3H, m, 3×ArH), 7.93 (2H, d, J=8.0 Hz, 2×ArH) ppm; 13C NMR (100 MHz, MeOD) δ 33.04, 41.40, 41.83, 57.31, 68.16, 98.35, 114.54, 117.51, 122.73, 128.84 (2×CH), 130.58 (2×CH), 134.34, 136.75, 137.93, 147.75, 151.73, 184.57, 198.44 ppm.

reactant | 5-(4-(2-boc-aminoethoxy)-3-methoxyphenyl)-1-phenylpentane-1,3-dione | 0.48 mmol, 211 mg | C(=O)(OC(C)(C)C)C(COC1=C(C=C(C=C1)CCC(CC(=O)C1=CC=CC=C1)=O)OC)N | C25H31NO6
reactant | HCl | Cl | ClH
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.43 mmol, 4 M, 0.36 ml | O1CCOCC1 | C4H8O2
product | 5-(4-(2-aminoethoxy)-3-methoxyphenyl)-1-phenylpentane-1,3-dione hydrochloride | 163 mg, 99% | Cl.NCCOC1=C(C=C(C=C1)CCC(CC(=O)C1=CC=CC=C1)=O)OC | InChI=1S/C20H23NO4.ClH/c1-24-20-13-15(8-10-19(20)25-12-11-21)7-9-17(22)14-18(23)16-5-3-2-4-6-16;/h2-6,8,10,13H,7,9,11-12,14,21H2,1H3;1H
